US08232278B2
Synthesis of 2,4-diamino-6-(3-chloro-4-methoxyphenyl)-pyrido[3,2-d]pyrimidine
A suspension of 2,4-diamino-6-chloropyrido[3,2-d]pyrimidine (464 mg, 2.37 mmole), K2CO3 (1332 mg, 9.64 mmole), 3-chloro-4-methoxyphenyl boronic acid (907 mg, 4.86 mmole) in 1,4-dioxane (35.5 ml) and water (7 ml) was purged with a stream of nitrogen for 15 minutes. Then, tetrakis(triphenylphosphine)palladium(0) (278 mg, 0.24 mmole) was added and the reaction mixture was heated at reflux under a N2 atmosphere for 4 hours. Upon cooling, the mixture was partitioned between CH2Cl2 and a saturated aqueous sodium bicarbonate solution. The organic phase was dried over Na2SO4, filtered and evaporated under reduced pressure. The crude residue was purified by silica gel flash chromatography, using methanol and 1% Et3N in CH2Cl2 as eluent, gradually increasing the methanol concentrations from 5% to 10%, to afford the pure title compound (277 mg, yield 39%) which was characterized by its mass spectrum as follows: MS (m/z): 302 ([M+H]+, 100).

reactant | 2,4-diamino-6-chloropyrido[3,2-d]pyrimidine | 2.37 mmole, 464 mg | NC=1N=C(C2=C(N1)C=CC(=N2)Cl)N | C7H6ClN5
reactant | K2CO3 | 9.64 mmole, 1332 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloro-4-methoxyphenyl boronic acid | 4.86 mmole, 907 mg | ClC=1C=C(C=CC1OC)B(O)O | C7H8BClO3
solvent | 1,4-dioxane | 35.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 7 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.24 mmole, 278 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4-diamino-6-(3-chloro-4-methoxyphenyl)-pyrido[3,2-d]pyrimidine | 277 mg, yield 39% | NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)Cl)N | C14H12ClN5O
